US04859229
A solution of 0.68 g of propiolic acid in 5 ml of methylene chloride is added dropwise at 0° C. while stirring during 5 minutes to a solution of 2.18 g of N,N'-dicyclohexylcarbodiimide in 10 ml of methylene chloride and the mixture is stirred at 0° C. for 15 minutes. solution of 1.5 g of 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6 -trifluoromethyl-2,4(1H,3H)-pyrimidinedione in 10 ml of methylene chloride is added dropwise while stirring during 20 minutes and the mixture is stirred at 0° C. for 2 hours. Insoluble constituents are filtered off under suction and the filtrate is evaporated to dryness under reduced pressure. The residue is purified by chromatography on a silica gel column using ethyl acetate/n-hexane (1:7) as the eluent. There is obtained 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl -4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorophenyl propiolate. 1H-NMR (CDCl3. 400 MHz: 7.40 ppm (d,1H), 7.21 ppm 1(d,1H), 6.36 ppm (s,1H), 3.56 ppm (d,3H). 3.15 ppm (s,1H),

reactant | propiolic acid | 0.68 g | C(C#C)(=O)O | C3H2O2
reactant | N,N'-dicyclohexylcarbodiimide | 2.18 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6 -trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 1.5 g | ClC1=CC(=C(C=C1O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C12H7ClF4N2O3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl -4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorophenyl propiolate | C(C#C)(=O)OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C15H7ClF4N2O4
